US08034811B2
O-(3,4,5-Trimethoxy-benzyl)-hydroxylamine hydrochloride
To a stirred solution of 3,4,5-trimethoxybenzyl chloride (1.00 g, 4.6 mmol) and tert-butyl-N-hydroxycarbamate (0.62 g, 4.6 mmol) in acetonitrile (20 ml) was added Cs2CO3 (4.51 g, 13.8 mmol). The reaction mixture was stirred at room temperature for 24 hours. Water was added and the products extracted twice with EtOAc. The combined organic extracts were washed with water and brine, dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by chromatography on silica using a gradient of EtOAc in petroleum ether (0-40%, v/v) affording 411 mg of Boc-protected O-(3,4,5-trimethoxy-benzyl)-hydroxylamine. This intermediate (383 mg/1.22 mmol) was treated with 37% hydrochloric acid (2.5 ml) in EtOAc (7.5 ml) for 30 min. at room temperature. The mixture was concentrated under reduced pressure and diethyl ether was added. The resulting precipitated material was isolated by filtration and dried under high vacuum affording the title compound (211 mg) as white shiny crystals.

reactant | 3,4,5-trimethoxybenzyl chloride | 4.6 mmol, 1.00 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | tert-butyl-N-hydroxycarbamate | 4.6 mmol, 0.62 g | C(C)(C)(C)OC(NO)=O | C5H11NO3
reactant | Cs2CO3 | 13.8 mmol, 4.51 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | EtOAc | 7.5 ml | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | O-(3,4,5-Trimethoxy-benzyl)-hydroxylamine hydrochloride | 211 mg | Cl.COC=1C=C(CON)C=C(C1OC)OC | InChI=1S/C10H15NO4.ClH/c1-12-8-4-7(6-15-11)5-9(13-2)10(8)14-3;/h4-5H,6,11H2,1-3H3;1H
